US06740669B1
1 N sodium hydroxide solution (0.11 ml) is added to a mixture of 4-cyano-1-(2,6-difluorobenzyl)-1H-1,2,3-triazole (2.20 g) and water (44 ml) at an external temperature of 95-100° C. while stirring. After 90 minutes, the suspension is cooled to 10° C. and the product is isolated by filtration, washed with water and dried at about 60° C. in vacuo. 1-(2,6-Difluorobenzyl)-1H-1,2,3-triazole-4-carboxamide is obtained in this manner, yield: 99.2% by weight, Modification A.

reactant | sodium hydroxide | 1 N, 0.11 ml | [OH-].[Na+]
reactant | 4-cyano-1-(2,6-difluorobenzyl)-1H-1,2,3-triazole | 2.20 g | C(#N)C=1N=NN(C1)CC1=C(C=CC=C1F)F | C10H6F2N4
solvent | water | 44 ml | O | H2O
product | 1-(2,6-Difluorobenzyl)-1H-1,2,3-triazole-4-carboxamide | FC1=C(CN2N=NC(=C2)C(=O)N)C(=CC=C1)F | C10H8F2N4O
